US06967197B2
To a solution of t-butyl 2-[(S)-7-(5-bromo-2-thienyl)-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetate•(1R)-10-camphorsulfonate (140 g) and triethylamine (44.6 ml) in chloroform (1.4 l) were added di-t-butyl dicarbonate (46.5 g) under ice-water cooling and the mixture was stirred at ambient temperature for 15 hours. After evaporation of solvent, ethyl acetate was added. The solution was washed with 5% citric acid solution, water, saturated sodium bicarbonate solution and brine, dried over magnesium sulfate, and evaporated in vacuo to give t-butyl 2-[(S)-7-(5-bromo-2-thienyl)-4-t-butoxycarbonyl-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetate as colorless oil (117 g).

reactant | t-butyl 2-[(S)-7-(5-bromo-2-thienyl)-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetate•(1R)-10-camphorsulfonate | 140 g | BrC1=CC=C(S1)[C@]1(CCNCCS1(=O)=O)CC(=O)OC(C)(C)C.[C@@]12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)[O-]
reactant | triethylamine | 44.6 ml | C(C)N(CC)CC | C6H15N
reactant | di-t-butyl dicarbonate | 46.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | chloroform | 1.4 l | C(Cl)(Cl)Cl | CHCl3
product | t-butyl 2-[(S)-7-(5-bromo-2-thienyl)-4-t-butoxycarbonyl-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetate | 117 g | BrC1=CC=C(S1)[C@]1(CCN(CCS1(=O)=O)C(=O)OC(C)(C)C)CC(=O)OC(C)(C)C | C20H30BrNO6S2
